US04050921
2-(3,4-Dimethylphenylmethylsulfinyl)pyridine N-oxide
The procedure employed is identical to that of Example 68 using 7.4 gm (0.03 mol) 2-(3,4-dimethylphenylmethylthio)pyridine N-oxide in 50 ml of chloroform with 6 gm (0.03 mol) MCPBA (85%) in 100 ml chloroform.

reactant | 2-(3,4-dimethylphenylmethylthio)pyridine N-oxide | 0.03 mol, 7.4 gm | CC=1C=C(C=CC1C)CSC1=[N+](C=CC=C1)[O-] | C14H15NOS
reactant | MCPBA | 0.03 mol, 6 gm | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3,4-Dimethylphenylmethylsulfinyl)pyridine N-oxide | CC=1C=C(C=CC1C)CS(=O)C1=[N+](C=CC=C1)[O-] | C14H15NO2S
